US08138345B2
Preparation of Biphenyl-2-ylcarbamic Acid 1-(2-{[3-(4-(1,3-Dioxolan-2-yl)-phenylcarbamoyl)propyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester
To a solution of 4-({3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]-propionyl}methylamino)butyric acid (75 mg, 0.16 mmol) and 4-(1,3-dioxolan-2-yl)phenylamine (26 mg, 0.16 mmol) in DCM (3 mL) was added N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (73.2 mg, 0.192 mmol) followed by N,N-diisopropylethylamine (55.9 μL, 0.321 mmol). The reaction mixture was stirred at room temperature for about 48 h. LC-MS (Method 2-90) showed product was present (Rt 3.87 min; m/z 615.4 [M+H]+). Water and DCM were added and the layers were separated. The organic layer was washed with water (2×) and brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound as a yellow oil, which was used without further purification. In subsequent experiments, this compound was also isolated as a filterable solid.

reactant | 4-({3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]-propionyl}methylamino)butyric acid | 0.16 mmol, 75 mg | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCC(=O)CNCCCC(=O)O)C1=CC=CC=C1 | C26H33N3O5
reactant | 4-(1,3-dioxolan-2-yl)phenylamine | 0.16 mmol, 26 mg | O1C(OCC1)C1=CC=C(C=C1)N | C9H11NO2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.192 mmol, 73.2 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.321 mmol, 55.9 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Water | O | H2O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | Biphenyl-2-ylcarbamic Acid 1-(2-{[3-(4-(1,3-Dioxolan-2-yl)-phenylcarbamoyl)propyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester | O1C(OCC1)C1=CC=C(C=C1)NC(=O)CCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C | C35H42N4O6
